US09353107B2
5-Bromo-1H-pyrrolo[2,3-b]pyridine (5 g, 25 mmol) was dissolved in anhydrous acetone (75 ml) and added N-iodo succinimide (6.18 g, 27.5 mmol) under nitrogen atmosphere and stirred at RT for 2 h. The reaction was monitored by TLC (10% Ethyl acetate in hexane). The reaction mixture was cooled to RT and filtered, washed with cold acetone (50 ml) and dried under vacuum to afford 7.05 g (87% yield) of 5-bromo-3-iodo-1H-pyrrolo[2,3-b]pyridine.

reactant | 5-Bromo-1H-pyrrolo[2,3-b]pyridine | 25 mmol, 5 g | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | N-iodo succinimide | 27.5 mmol, 6.18 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 75 ml | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
product | 5-bromo-3-iodo-1H-pyrrolo[2,3-b]pyridine | 7.05 g, 87% yield | BrC=1C=C2C(=NC1)NC=C2I | C7H4BrIN2
